US07208526B2
To (E)-2-(4-chloro-phenyl)-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide (5.0 g, 15.2 mmol) in dichloromethane (10 ml) was added trifluoroacetic acid (10 ml) and the mixture was stirred for 15 min. The mixture was concentrated in vacuo to afford a solid. The solid was washed with dichloromethane (5 ml) and heptane (150 ml). The resultant solid was collected by suction filtration. The solid was dried under vacuum at room temperature to afford (E)-2-(4-chloro-phenyl)-ethenesulfonic acid amide (2.95 g, 89%).

reactant | (E)-2-(4-chloro-phenyl)-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 15.2 mmol, 5.0 g | CC(CC(C)(C)C)(C)NS(=O)(=O)\C=C\C1=CC=C(C=C1)Cl | C16H24ClNO2S
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-2-(4-chloro-phenyl)-ethenesulfonic acid amide | 2.95 g, 89% | ClC1=CC=C(C=C1)/C=C/S(=O)(=O)N | C8H8ClNO2S
